US07786132B2
(i) 2-Chloro-4-[5-(trimethylsilyl)thiophen-2-yl]pyrimidine
nBuLi (1.9 mL, 1.6 M solution in hexane, 3.0 mmol) was added to a stirred solution of 0.50 mL (3.0 mmol) of 2-(trimethylsilyl)thiophene in 7 mL of THF at −78° C. The solution was stirred for 30 min at −78° C., then warmed to 0° C. and stirred 30 min, before 6.1 mL (3.0 mmol) of a 0.5 M solution of ZnCl2 in THF was added. The reaction solution was stirred for 30 min at 0° C., then transferred via syringe to a microwave vessel containing 315 mg (2.8 mmol) of 2,4-dichloropyrimidine and 158 mg (0.14 mmol) of tetrakis(triphenylphosphine)palladium(0) in 2 mL of THF. The vessel was sealed and heated in a microwave for 10 min at 160° C., then cooled to rt, diluted with 100 mL of Et2O, dried over MgSO4, filtered, concentrated in vacuo, and purified by flash chromatography eluting with a linear gradient of 20% EtOAc in hexane to 50% EtOAc to deliver the title compound. MS (M+H)+ 269.

reactant | nBuLi | 3.0 mmol, 1.6 M, 1.9 mL | [Li]CCCC
reactant | 2-(trimethylsilyl)thiophene | 3.0 mmol, 0.50 mL | C[Si](C=1SC=CC1)(C)C | C7H12SSi
reactant | 2,4-dichloropyrimidine | 2.8 mmol, 315 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 158 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-[5-(trimethylsilyl)thiophen-2-yl]pyrimidine | ClC1=NC=CC(=N1)C=1SC(=CC1)[Si](C)(C)C | C11H13ClN2SSi
